US04937373
A mixture of 8.3 g (0.030 mol) of 1-(6-bromohexyl)-3,4-dihydroxybenzene, 18 mL (0.15 mol) of benzyl bromide and 13 g (0.09 mol) of potassium carbonate in 160 mL of acetone-50 mL of dimethylformamide was stirred at reflux for 24 hours. Potassium carbonate (4 g) was added and stirring at reflux was continued for 48 hours. The reaction mixture was cooled, filtered and the filtrate was concentrated at reduced pressure to an oil. Purification by HPLC using 1% ethyl acetate-hexane gave 6.4 g (47% yield) of 1-(6-bromohexyl)-3,4-bis-(phenylmethoxy)benzene. The nmr spectrum was consistent with the structure and the low resolution mass spectrum showed the molecular ion at m/z 452 (C26H29BrO2).

reactant | 1-(6-bromohexyl)-3,4-dihydroxybenzene | 0.030 mol, 8.3 g | BrCCCCCCC1=CC(=C(C=C1)O)O | C12H17BrO2
reactant | benzyl bromide | 0.15 mol, 18 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.09 mol, 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | Potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 1-(6-bromohexyl)-3,4-bis-(phenylmethoxy)benzene | 6.4 g, 47% yield | BrCCCCCCC1=CC(=C(C=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
